US04067995
c. Dimethyl N,N'-(4-cyano-m-phenylene)dioxamate
A mixture of 29.0 grams (0.218 mole) of 2,4-diaminobenzonitrile and 255 grams of dimethyl oxalate is refluxed for 3 hours. The excess dimethyl oxalate is distilled off in vacuo. The residue is boiled with 150 ml. of methanol and filtered. The filtrate is poured into 900 ml. of water and the tan precipitate removed by filtration. There is obtained 53.7 grams (81%) of tan needles melting at 155°-160°. The product is boiled in 1800 ml. of methanol and the insoluble material removed by filtration. The filtrate is poured into 2 liters of water, refrigerated, and the precipitate removed by filtration. There is obtained 23.8 grams of fine yellow needles melting at 160°-163°.

reactant | 2,4-diaminobenzonitrile | 0.218 mole, 29.0 grams | NC1=C(C#N)C=CC(=C1)N | C7H7N3
reactant | dimethyl oxalate | 255 grams | C(C(=O)OC)(=O)OC | C4H6O4
product | Dimethyl N,N'-(4-cyano-m-phenylene)dioxamate | 53.7 grams, 81% | C(#N)C1=C(C=C(C=C1)NC(C(=O)OC)=O)NC(C(=O)OC)=O | C13H11N3O6
